USH0000386
2-(1,2-Dichloroethen-1-yloxy)benzenesulfonamide
Twenty four grams of 1-(2-aminophenoxy)-1,2-dichloroethene was dissolved in a mixture of 25 ml acetic acid, 25 ml of 12N hydrochloric acid and 50 ml of water. The grown mixture was cooled to 0° and a solution of 8.28 g of sodium nitrite in 15 ml of water was added dropwise. The resulting brown suspension was stirred at below 5° for one-half hour and then added to a stirred suspension of 3 g copper sulfate, 90 ml of 12N hydrochloric acid and 62 ml of 40% sodium bisulfite. The resultant mixture was allowed to warm to room temperature and stirred for sixteen hours. It was then extracted with methylene chloride, the combined organic phases washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate and added dropwise to 100 ml of methylene chloride containing 12.5 ml of liquified ammonia at -78°. This mixture was allowed to stir for two days at room temperature, then cooled to 0° and acidified with 10% hydrochloric acid. After separating the resultant two phases, the methylene chloride phase was washed with water and saturated sodium chloride followed by drying over magnesium sulfate and evaporation of the solvent to give 18.79 g of a solid melting at 145°-148°.

reactant | 1-(2-aminophenoxy)-1,2-dichloroethene | Twenty four grams | NC1=C(OC(=CCl)Cl)C=CC=C1 | C8H7Cl2NO
reactant | sodium nitrite | 8.28 g | N(=O)[O-].[Na+]
reactant | sodium bisulfite | 62 ml | S([O-])(O)=O.[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 12N, 25 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 15 ml | O | H2O
catalyst | copper sulfate | 3 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | hydrochloric acid | 12N, 90 ml | Cl | ClH
product | 2-(1,2-Dichloroethen-1-yloxy)benzenesulfonamide | 18.79 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
